Keytag Detector
*SPICE Netlist generated by Advanced Sim server on 12/27/2024 10:11:28 PM
.options MixedSimGenerated

*Schematic Netlist:
VV? NetR1_2 NetV?_1 3 AC 1 0
VV? NetV?_1 NetV?_1 3 AC 1 0
VV? NetV?_1 Net_1 3 AC 1 0

.PLOT {V(Net_1)} =PLOT(1) =AXIS(1)

*Selected Circuit Analyses:
.AC DEC 10 1K 1G
.TRAN 0.1u 5u 0 0.1u
.OP

.END